US07834051B2
rac-4-((4R,5S)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethyl-2-oxopyrrolidin-1-yl)-2-chloro-3-methylbenzonitrile
Using (4RS,5SR)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethylpyrrolidin-2-one (200 mg), 2-chloro-4-iodo-3-methylbenzonitrile (250 mg), cesium carbonate (380 mg), tris(dibenzylideneacetone)dipalladium(0) (36 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (45 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a pale-yellow oil (yield: 103mg, yield:33.7%).

reactant | (4RS,5SR)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethylpyrrolidin-2-one | 200 mg | [Si](C)(C)(C(C)(C)C)OC1C(C(NC1C)=O)(C)C | C13H27NO2Si
reactant | 2-chloro-4-iodo-3-methylbenzonitrile | 250 mg | ClC1=C(C#N)C=CC(=C1C)I | C8H5ClIN
reactant | cesium carbonate | 380 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 45 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | rac-4-((4R,5S)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethyl-2-oxopyrrolidin-1-yl)-2-chloro-3-methylbenzonitrile | [Si](C)(C)(C(C)(C)C)O[C@@H]1C(C(N([C@H]1C)C1=C(C(=C(C#N)C=C1)Cl)C)=O)(C)C | C21H31ClN2O2Si
